Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing / ___ Aspirin
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old female with PMH of moderately severe asthma, 
hypertension, GERD and osteoporosis presenting with four days of 
increased shortness of breath, non-productive cough and 
pleuritic chest pain.  She denies f/c, myalgias, sick contacts.  
Symptoms minimally improved with nebulizers at home.  She 
presented to ED, she was 91% on room air, CXR showed no acute 
process.  She was given nebs and 40 mg of prednisone.  She now 
reports her shortness of breath is slightly better, denies any 
current chest pain or chest pressure.  She has been having 
intermittent headaches, denies any current headache.  Denies 
abdominal pain, n/v, diarrhea, dysuria, leg swelling.

ROS: Ten point ROS conducted and otherwise negative.
 
Past Medical History:
Moderate asthma, PFTs ___ with FEV1 46% predicted and possible 
restrictive component as well
Hypertension
Hypothyroidism  
Osteoperosis  
GERD  
Anaphylaxis to contrast dye c/b respiratory and circulatory 
arrest, ___
 
Social History:
___
Family History:
No history of RAD or blood clots
 
Physical Exam:
Admission PE:
VS: T: 97.7 HR 78 BP 124/70 RR 20 100% RA
Gen: NAD, resting comfortably in bed
HEENT: EOMI, PERRLA, MMM, OP clear
CV: RRR nl s1s2 no m/r/g
Resp: poor air movement throughout, diffuse end expiratory 
wheezing
Abd: Soft, NT, ND +BS
Ext: no c/c/e
Neuro: CN II-XII intact, ___ strength throughout
Psych: normal affect

Discharge PE:
VS: T: 97.8 HR: 77 BP: 121/58  RR: 20 98% RA  
Gen: NAD, resting comfortably in bed
HEENT: EOMI, PERRLA, MMM, OP clear
CV: RRR nl s1s2 no m/r/g
Resp: mild diffuse expiratory wheezing, improved air movement
Abd: Soft, NT, ND +BS
Ext: no c/c/e
Neuro: CN II-XII intact, ___ strength throughout
Psych: normal affect
 
Pertinent Results:
___ 01:14AM URINE  RBC-0 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-1
___ 11:41PM   LACTATE-1.6
___ 11:30PM   GLUCOSE-100 UREA N-15 CREAT-0.8 SODIUM-141 
POTASSIUM-4.5 CHLORIDE-103 TOTAL CO2-24 ANION GAP-19
___ 11:30PM   cTropnT-<0.01
___ 11:30PM   WBC-8.5 RBC-4.23 HGB-13.0 HCT-41.0 MCV-97 
MCH-30.7 MCHC-31.7* RDW-15.0 RDWSD-53.7*
___ 11:30PM   NEUTS-47.2 ___ MONOS-15.2* EOS-5.6 
BASOS-0.6 IM ___ AbsNeut-4.01 AbsLymp-2.59 AbsMono-1.29* 
AbsEos-0.48 AbsBaso-0.05
___ 11:30PM   PLT COUNT-201
 
Flu A and B PCR: Negative

CXR PA/L ___:
IMPRESSION:  
No acute cardiopulmonary process. 

 
Brief Hospital Course:
___ year old female with PMH of moderately severe asthma, 
hypertension, GERD and osteoporosis presenting with four days of 
increased shortness of breath, non-productive cough and 
pleuritic chest pain.

#Pulmonary: acute asthma exacerbation.  CXR showing no acute 
process, influenza negative.  Typical for her asthma 
exacerbations and showing some mild initial improvement on 
steroids and nebulizers. Peak flow in ED reportedly 100.  She 
was weaned off oxygen and on discharge was ambulating off oxygen 
with oxygen saturation >90%.  
-Continue prednisone 40 mg daily for total 5 days
-PRN nebulizers at home
-Continue Advair, Singulair
-Follow-up with pulmonary

#GERD: Continue PPI

#Hypothyroidism: continue synthroid

#FEN/PPX: Regular, heparin SC

Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea 
2. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
3. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN dyspnea 
4. Levothyroxine Sodium 112 mcg PO DAILY 
5. Montelukast 10 mg PO DAILY 
6. Simvastatin 40 mg PO DAILY 
7. Actonel (risedronate) 35 mg oral Qweek 
8. Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea 
9. NexIUM (esomeprazole magnesium) 40 mg oral daily 
10. nystatin 100,000 unit/gram topical DAILY:PRN rash 
11. Aspirin 325 mg PO DAILY 
12. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea 
2. Aspirin 325 mg PO DAILY 
3. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
4. Levothyroxine Sodium 112 mcg PO DAILY 
5. Montelukast 10 mg PO DAILY 
6. Simvastatin 40 mg PO DAILY 
7. Actonel (risedronate) 35 mg oral Qweek 
8. Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea 
9. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY 
10. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN dyspnea 
11. NexIUM (esomeprazole magnesium) 40 mg oral daily 
12. nystatin 100,000 unit/gram topical DAILY:PRN rash 
13. PredniSONE 40 mg PO DAILY Duration: 2 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*4 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Asthma exacerbation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with worsening shortness of breath and you 
were found to have an asthma exacerbation.  You were treated 
with prednisone, oxygen and breathing treatments and your 
breathing improved.  Your oxygen levels improved and you were 
weaned off oxygen.  
 
Followup Instructions:
___